US09301951B2
3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-fluoro-phenyl)carbamoyl)benzylthio)propanoic acid
Into a 50-mL round bottom flask, was placed a solution of tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-fluorophenyl)carbamoyl)benzylthio)propanoate (100 mg, 0.15 mmol, 1.00 equiv) in dichloromethane (5 mL), and trifluoroacetic acid (1 mL). The resulting solution was stirred overnight at room temperature. The resulting mixture was concentrated under vacuum. The crude product (100 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 22.7 mg (25%) of a yellow solid. 1H-NMR (300 MHz, DMSO, ppm): δ 12.78 (s, 1H), 9.55-9.54 (m, 1H), 9.00-8.99 (m, 1H), 8.58-8.53 (m, 1H), 8.43 (s, 1H), 7.94-7.39 (m, 11H), 4.65-4.63 (t, J=3 Hz, 2H), 3.89 (s, 2H), 2.63-2.59 (m, 2H). MS (ES, m/z): 612 [M+H]+.

reactant | tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-fluorophenyl)carbamoyl)benzylthio)propanoate | 0.15 mmol, 100 mg, 1.00 equiv | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)F)NC(=O)C=2C=C(CSCCC(=O)OC(C)(C)C)C=CC2)C=CC1)(F)F | C35H33F4N3O4S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-fluoro-phenyl)carbamoyl)benzylthio)propanoic acid | 22.7 mg, 25% | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)F)NC(=O)C=2C=C(CSCCC(=O)O)C=CC2)C=CC1)(F)F | C31H25F4N3O4S
